US07582626B2
b) 2-Isopropylamino-cyclopentanecarboxylic acid ethyl ester
2-Isopropylamino-cyclopent-1-enecarboxylic acid ethyl ester (2.44 g, 12.38 mmol) was dissolved in glacial acetic acid (30 mL) and sodium triacetoxyborohydride (7.87 g, 37.13 mmol) was added at 0° C. The solution was allowed to warm to 25° C. and stirred for 3 h. The acetic acid was removed in vacuo and the residue was dissolved in dichloromethane. The solution was washed with saturated aqueous sodium bicarbonate solution followed by saturated aqueous brine solution. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo to afford the desired product, 2-isopropylamino-cyclopentanecarboxylic acid ethyl ester (1.5 g, 7.53 mmol, 60.8%), as a yellowish oil. LC-MS (ESI) calcd for C11H21NO2 199.16, found 200.2 [M+H+].

reactant | 2-Isopropylamino-cyclopent-1-enecarboxylic acid ethyl ester | 12.38 mmol, 2.44 g | C(C)OC(=O)C1=C(CCC1)NC(C)C | C11H19NO2
reactant | sodium triacetoxyborohydride | 37.13 mmol, 7.87 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-isopropylamino-cyclopentanecarboxylic acid ethyl ester | 7.53 mmol, 1.5 g, 60.8% | C(C)OC(=O)C1C(CCC1)NC(C)C | C11H21NO2
